US04016220
A process according to claim 1, wherein (a) is 1-decene or 9-octadecene and (b) is a mixture of 2-tetradecene with 2-hexadecene or 1-pentadecene, whereby a mixture of 9-tricosene and 9-heneicosene is formed.

reactant | 1-decene | C=CCCCCCCCC | C10H20
reactant | 9-octadecene | CCCCCCCCC=CCCCCCCCC | C18H36
reactant | 2-tetradecene | CC=CCCCCCCCCCCC | C14H28
reactant | 2-hexadecene | CC=CCCCCCCCCCCCCC | C16H32
reactant | 1-pentadecene | C=CCCCCCCCCCCCCC | C15H30
reactant | 9-tricosene | CCCCCCCCC=CCCCCCCCCCCCCC | C23H46
product | 9-heneicosene | CCCCCCCCC=CCCCCCCCCCCC | C21H42
